US04341784
A mixture containing 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (5.41 g), 3-(N-acetylmethylamino)pyrrolidine (4.26 g), triethylamine (6.06 g), and ethanol (100 ml) was heated under reflux for 2 hours with stirring. The reaction mixture was concentrated to dryness under reduced pressure. To the residue was added water (70 ml) and acetic acid (15 ml). After cooling the mixture, the precipitate was collected, washed with water, and recrystallized from dimethylformamide. There were obtained 7.4 g of 7-[3-(N-acetylmethylamino)-1-pyrrolidinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, m.p. 287°-289° C.

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 5.41 g | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
reactant | 3-(N-acetylmethylamino)pyrrolidine | 4.26 g | C(C)(=O)CNC1CNCC1 | C7H14N2O
reactant | triethylamine | 6.06 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 7-[3-(N-acetylmethylamino)-1-pyrrolidinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 7.4 g | C(C)(=O)CNC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C18H21FN4O4
